US06048885
Sodium azide (1.30 g, 20 mmol), ammonium chloride (1.07 g, 20 mmol) and N,N-dimethylformamide (10 ml) were added to 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetonitrile (0.59 g, 2 mmol), and the mixture was stirred at 115° C. for 9 hours. After completion of the reaction, ethyl acetate (150 ml) was added, and the mixture was washed with saturated brine (100 ml) twice. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate/n-hexane to give 2-(2,5-dimethylphenoxymethyl)phenyl 1H-tetrazol-5-yl ketone O-methyloxime (0.59 g, 87.4%) as colorless crystals.

reactant | Sodium azide | 20 mmol, 1.30 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 20 mmol, 1.07 g | [Cl-].[NH4+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetonitrile | 2 mmol, 0.59 g | CC1=C(OCC2=C(C=CC=C2)C(C#N)=NOC)C=C(C=C1)C | C18H18N2O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2,5-dimethylphenoxymethyl)phenyl 1H-tetrazol-5-yl ketone O-methyloxime | 0.59 g, 87.4% | CON=C(C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C)C1=NN=NN1 | C18H19N5O2
